US07615562B2
[3-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-6-yl]-methanol was prepared as described in Example 215, starting from 6-(tert-butyl-dimethyl-silanyloxymethyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indole and (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine, followed by selective cleavage of the TBDMS-protecting group with TBAF. Yield: 7.1 g (93%).

reactant | 6-(tert-butyl-dimethyl-silanyloxymethyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indole | C(C)(C)(C)[SiH2]OC(C1=CC=C2C=CN(C2=C1)COCC[Si](C)(C)C)(C)C | C21H37NO2Si2
reactant | (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | [3-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-6-yl]-methanol | CC1(NC(CC(C1)NC1=NC=CC(=N1)C1=CN(C2=CC(=CC=C12)CO)COCC[Si](C)(C)C)(C)C)C | C28H43N5O2Si
